Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___ / omeprazole
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old community dwelling female with h/o
gait instability, neuropathy who presents s/p fall. She stood up
to get out of a chair while she was watching the news hours 
after
eating. She wanted to put the light on the porch so that the
tenant who lives below could see to enter her two family home.
She does not remember having LH or dizziness before the fall. 
She
remembers seeing her rheumatologist who refused to inject her
knee because she felt dizzy. She reports having a good luch and
breakfast on the day of presentation. She remembers doing 
laundry
and folding clothes. She remembers resting things on the stove
with the plan to make supper prior to the fall. She doesn't
remember how she fell. She doesn't think that she had
palpitations, sob, cp prior to the fall. She thinks that she was
in her general state of chronic health. No urinary or bowel
incontinence. Thyroid medication recently decreaed from 100 -> 
88
mcg.
Per EMS, a patient's neighbor found the patient sitting on the
floor, unable to get up. She was confused and unable to 
recollect
why they were there. Her confusion lasted ~30 minutes and then
improved. Pt denies recent med changes apart from levothyroxine
being decreased. ___ 148. 

In ER: (Triage Vitals: 98.3, 135/68, 66, 16, 97% on RA)
 Meds Given: ceftriaxone
Fluids given: 1L NS
Radiology Studies: head CT/ CXR
consults called.
.
PAIN SCALE: ___ 

 
Past Medical History:
Ataxia s/p fall complicated by ___ ___
Takosubo's CMY now resolved with EF = 60%
Osteoarthritis 
TS
HYPOTHYROIDISM, UNSPEC 
HEARING LOSS - CONDUCTIVE & SENSORINEURAL 
STROKE - LACUNAR 
NEUROPATHY - IDIOPATHIC 
TREMOR 
VOICE DISTURBANCE - OTHER TYPE 
Osteoporosis, senile 
SCREENING FOR COLON CANCER 
CERVICAL (NECK) PAIN 
Macular degeneration, dry 
Thrombocytopenia 
Blepharitis 
Dry eye syndrome 
PVD (posterior vitreous detachment) 
Macular hole 
Osteoarth NOS-l/leg 
Severe stage glaucoma 
Balance disorder 
DJD (degenerative joint disease) 
Fracture of olecranon process, right, closed 
Fall due to stumbling 
Balance disorder 
Optic neuropathy, right 
Glaucoma suspect of both eyes 
Open angle with borderline findings, low risk 
Retinal drusen

 
Social History:
___
Family History:
Son had CVA ___

 
Physical Exam:
Vitals: T97.7, 148/58, 64, 18, 98RA, orthostatics supine 148/67,
HR 63, standing 151/69 HR 60
Gen: Appears comfortable
CV: RRR, no mgr
Pulm: CTA bilat
Abd: soft, nt
Extrem: warm, no ___ edema
GU: no foley
Skin: no rash
Neuro: A+Ox3, speech fluent

 
Pertinent Results:
___ 08:11PM BLOOD WBC-7.8 RBC-3.58* Hgb-11.8* Hct-34.7* 
MCV-97 MCH-33.1* MCHC-34.2 RDW-14.9 Plt Ct-69*
___ 05:45AM BLOOD WBC-6.6 RBC-3.29* Hgb-10.7* Hct-31.8* 
MCV-97 MCH-32.5* MCHC-33.5 RDW-14.9 Plt Ct-66*
___ 08:10PM BLOOD ___ PTT-28.0 ___
___ 08:11PM BLOOD Glucose-116* UreaN-20 Creat-0.5 Na-137 
K-3.8 Cl-105 HCO3-23 AnGap-13
___ 05:45AM BLOOD Glucose-91 UreaN-9 Creat-0.4 Na-139 K-3.5 
Cl-105 HCO3-27 AnGap-11
___ 06:25AM BLOOD ALT-19 AST-19 LD(LDH)-184 AlkPhos-68 
TotBili-0.7
___ 06:25AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.0
___ 08:11PM BLOOD TSH-0.17*
___ 08:11PM BLOOD T4-10.3 T3-127
___ 09:08PM BLOOD Lactate-1.5

___ 8:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

CXR:Images reviewed by author.
- no acute cardiopulmonary disease
.

CT SCAN:Head CT negative.
.
NECK CT
IMPRESSION:  
  
1. No evidence of acute fracture or traumatic malalignment. 
2. Moderate, multilevel degenerative changes of the cervical
spine, as above. 
  

 
Brief Hospital Course:
___ yo F with h/o CVA and neuropathy presents with confusion 
following a fall.

# Confusion: Attributed to post-concussive syndrome. Resolved 
immediately upon arrival to the floor. 

# Fall: Likely mechanical or neuropathy-mediated. There was no 
evidence of arrhythmia on telemetry monitoring from ___. 
The patient was seen by neurology in consultation and they did 
not feel that there was anything to suggest seizure or TIA.

# Thrombocytopenia: Worse than recent baseline in 100's K. 
Possibly drug-related and possibly due to ranitidine. Pt was 
asked to stop ranitidine. No evidence of acute bleeding or 
hemolysis.

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 10 mg PO DAILY 
3. diphenoxylate-atropine 2.5-0.025 mg oral QID PRN  diarrhea 
4. Gabapentin 200 mg PO HS 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Thrombocytopenia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted after a fall at home. You had some confusion 
surrounding the fall and you were thought to have a 
post-concussive syndrome. You were seen by the neurologists 
here. 

You were also found to have low platelets. This may be the 
result of ranitidine. Please stop ranitidine. 
 
Followup Instructions:
___